US05750702
To a solution of 4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid (886 mg, 5 mmol) and catalytic benzoyl peroxide in N,N-dimethylformamide (5 mL) at 0° C. was added N-bromosuccinimide (1.869 g, 10.5 mmol)in four equal portions over 1 hour. The mixture was stirred an additional hour, then poured into ice water, the precipitate collected and rinsed with water then diethyl ether and dried. Purification on Silica gel (5% methyl alcohol in 1:1:1 dichloromethane/ethyl acetate/hexanes) gave 2-bromo-4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid (376 mg).

reactant | 4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid | 5 mmol, 886 mg | O=C1C=2C(=CNC2CCC1)C(=O)O | C9H9NO3
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 10.5 mmol, 1.869 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-bromo-4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid | 376 mg | BrC=1NC=2CCCC(C2C1C(=O)O)=O | C9H8BrNO3
